.include pmos_nmos_3p3_wrapper.spice
* Auto TB for barthnauta_cell
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from barthnauta.ext - technology: gf180mcuC

.subckt barthnauta_cell inl inr out gp vreg op im ip om vss vdd m3_n7200_1320# bp
X0 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X1 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X2 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X3 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X4 d2 inr out vss nmos_3p3 w=1.8u l=0.6u
X5 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X6 d1 inl vss vss nmos_3p3 w=1.8u l=0.6u
X7 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X8 vss inr d2 vss nmos_3p3 w=1.8u l=0.6u
X9 out inl d1 vss nmos_3p3 w=1.8u l=0.6u
X10 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
X11 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
C0 bp out 0.15fF
C1 inl inr 0.55fF
C2 op inl 0.20fF
C3 om out 0.11fF
C4 bp vreg 0.92fF
C5 bp inl 0.32fF
C6 gp vreg 1.98fF
C7 op inr 0.20fF
C8 out vreg 0.78fF
C9 vdd gp 0.66fF
C10 om inl 0.18fF
C11 bp inr 0.32fF
C12 out inl 0.17fF
C13 om inr 0.18fF
C14 out inr 0.19fF
C15 vdd vreg 1.41fF
C16 out op 0.11fF
C17 out vss 1.53fF
C18 inr vss 2.28fF
C19 inl vss 2.29fF
C20 vreg vss 0.72fF
C21 gp vss 1.56fF
C22 bp vss 6.58fF
C23 vdd vss 6.08fF
C24 d2 vss 0.18fF
C25 d1 vss 0.18fF
.ends

.subckt barthnauta_edge gp vreg op x im ip om vdd gnd bp
X0 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X1 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 bp hi 0.28fF
C1 vreg vdd 0.22fF
C2 vreg gp 1.01fF
C3 vreg hi 0.11fF
C4 vdd hih 0.45fF
C5 vreg bp 0.23fF
C6 vreg gnd 0.44fF
C7 bp gnd 4.35fF
C8 vdd gnd 4.01fF
C9 lo gnd 0.84fF
C10 hi gnd 0.46fF
C11 hih gnd 0.46fF
.ends

.subckt barthnauta ip im op om vdd gp bp vreg gnd
Xbarthnauta_cell_9 x ip om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_edge_0 gp vreg op x im ip om vdd gnd bp barthnauta_edge
Xbarthnauta_edge_1 gp vreg op x im ip om vdd gnd bp barthnauta_edge
Xbarthnauta_cell_0 im x op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_10 ip x x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_1 x ip om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_11 x im x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_2 ip x x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_12 op om op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_13 om op om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_3 x im x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_14 ip x om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_4 op om op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_15 x im op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_5 om op om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_6 ip x om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_8 im x op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_7 x im op gp vreg op im ip om gnd vdd x bp barthnauta_cell
C0 x op 0.80fF
C1 om op 0.49fF
C2 vreg vdd 0.39fF
C3 ip op 0.93fF
C4 x vreg 0.17fF
C5 im x 0.20fF
C6 om vreg 0.14fF
C7 im om 0.42fF
C8 im ip 0.11fF
C9 gnd op -0.11fF
C10 bp gnd -1.56fF
C11 vreg gnd 0.26fF
C12 bp op 0.11fF
C13 im gnd -0.29fF
C14 gp vreg -1.15fF
C15 vreg op 0.14fF
C16 im op 1.16fF
C17 x om 0.65fF
C18 ip x 0.38fF
C19 ip om 0.41fF
C20 gnd vdd -0.98fF
C21 om gnd -0.40fF
C22 gp vdd 0.22fF
C23 ip gnd -0.67fF
C24 gnd 0 -24.44fF
C25 vdd 0 91.18fF
C26 om 0 35.48fF
C27 ip 0 26.06fF
C28 im 0 25.92fF
C29 op 0 34.80fF
C30 gp 0 22.45fF
C31 bp 0 103.69fF
C32 x 0 43.03fF
C33 vreg 0 4.17fF
.ends



Vdd vdd 0 DC 1.8
Vss vss 0 DC 0
X1 inl inr out gp vreg op im ip om vss vdd m3_n7200_1320# bp barthnauta_cell
.op
.control
op
.endc
.end
